US07601844B2
Sodium 2-aminooxazole-4-carboxylate (75 mg, 0.500 mmol), HOBt (67.5 mg, 0.500 mmol) and EDCI (96 mg, 0.500 mmol) were dissolved in DMF (0.5 mL). The mixture was stirred at rt for 0.5 h, then was added (R)-2-amino-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methylbutan-1-one hydrochloride (188 mg, 0.500 mmol) and further stirred for 2 h. The reaction was quenched with water and stirred at rt for 2 h. The solids were filtered and rinsed with water to give 2-amino-N—((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)oxazole-4-carboxamide (169 mg, 0.376 mmol, 75% yield).

reactant | Sodium 2-aminooxazole-4-carboxylate | 0.500 mmol, 75 mg | NC=1OC=C(N1)C(=O)[O-].[Na+]
reactant | HOBt | 0.500 mmol, 67.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.500 mmol, 96 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | (R)-2-amino-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methylbutan-1-one hydrochloride | 0.500 mmol, 188 mg | Cl.N[C@@H](C(=O)N1CC([C@@](CC1)(O)C1=CC=C(C=C1)Cl)(C)C)C(C)C
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-amino-N—((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)oxazole-4-carboxamide | 0.376 mmol, 169 mg, 75% yield | NC=1OC=C(N1)C(=O)N[C@@H](C(=O)N1CC([C@@](CC1)(O)C1=CC=C(C=C1)Cl)(C)C)C(C)C | C22H29ClN4O4
